US07576128B2
To 1,3-propanediol (320 mg, 4.2 mmol) was added sodium (21 mg, 0.92 mmol). The mixture is stirred at room temperature for 10 minutes and 2-chloro-4-fluoro-benzonitrile (156 mg, 1.0 mmol) was added. The reaction was heated to 105° C. for 24 hours. The reaction was cooled to room temperature, was diluted with water and was extracted with Et2O (3×). The organic solution was dried (MgSO4), filtered and concentrated. The residue was purified by reverse phase high pressure chromatography eluting with a solvent gradient (15% of 0.1% formic acid/CH3CN in 0.1% formic acid/water to 100% of 0.1% formic acid/water) to provide 107 mg of 2-chloro-4-(3-hydroxy-propoxy)-benzonitrile. 1H NMR (CDCl3) δ 7.54 (d, 1H), 7.00 (m, 1H), 6.85 (dd, 1H), 4.15 (t, 2H), 3.83 (t, 2H), 2.04 (m, 2H).

reactant | 1,3-propanediol | 4.2 mmol, 320 mg | C(CCO)O | C3H8O2
reactant | sodium | 0.92 mmol, 21 mg | [Na] | Na
reactant | 2-chloro-4-fluoro-benzonitrile | 1.0 mmol, 156 mg | ClC1=C(C#N)C=CC(=C1)F | C7H3ClFN
solvent | water | O | H2O
product | 2-chloro-4-(3-hydroxy-propoxy)-benzonitrile | 107 mg | ClC1=C(C#N)C=CC(=C1)OCCCO | C10H10ClNO2
